US04336056
1,1-Dimethyl-3-(5-tert.-butyl-3-isoxazolyl)urea is prepared by condensing dimethylamine with 5-tert.-butyl-3-isoxazolyl isocyanate in benzene. After removal of the reaction solvent and purification by chromatography or crystallization, there is obtained 1,1-dimethyl-3-(5-tert.-butyl-3-isoxazolyl)urea. M.P. 119.5°-120.5° C.

reactant | dimethylamine | CNC | C2H7N
reactant | 5-tert.-butyl-3-isoxazolyl isocyanate | C(C)(C)(C)C1=CC(=NO1)N=C=O | C8H10N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,1-dimethyl-3-(5-tert.-butyl-3-isoxazolyl)urea | CN(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C10H17N3O2
